US08633180B2
(6aR,9aS)-2,4,5,6a,7,8,9,9a-octahydro-5-methyl-3-(phenylamino)-2-((4-Pyridin-2-yl)-benzyl)-cyclopent[4,5]imidazo[1,2-a]pyrazolo[4,3-e]pyrimidine
(6aR,9aS)-5,6a,7,8,9,9a-hexahydro-5-methyl-3-(phenylamino)-2-((4-Pyridin-2-yl)-benzyl)-cyclopent[4,5]imidazo[1,2-a]pyrazolo[4,3-e]pyrimidin-4(2H)-one (26.9 mg, 0.055 mmol) is dissolved in 1 mL of anhydrous THF, and then 400 uL of 1.5 M DIBAL-H in toluene is added dropwise. After the reaction mixture is stirred at room temperature overnight, additional 800 uL of 1.5 M DIBAL-His added to the solution. The reaction mixture is stirred at room temperature for 24 hours, and then quenched with NH4Cl aqueous solution. After routine workup, the mixture is purified by a semi-preparative HPLC to give 3.0 mg of pure product as while solids. MS (ESI) m/z 476.3 [M+H]+.

reactant | (6aR,9aS)-5,6a,7,8,9,9a-hexahydro-5-methyl-3-(phenylamino)-2-((4-Pyridin-2-yl)-benzyl)-cyclopent[4,5]imidazo[1,2-a]pyrazolo[4,3-e]pyrimidin-4(2H)-one | 0.055 mmol, 26.9 mg | CN1C=2N(C=3C(C1=O)=C(N(N3)CC3=CC=C(C=C3)C3=NC=CC=C3)NC3=CC=CC=C3)[C@@H]3[C@H](N2)CCC3 | C29H27N7O
reactant | DIBAL-H | 1.5 M, 400 uL | CC(C)C[AlH]CC(C)C
reactant | DIBAL | 1.5 M, 800 uL | CC(C)C[AlH]CC(C)C
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (6aR,9aS)-2,4,5,6a,7,8,9,9a-octahydro-5-methyl-3-(phenylamino)-2-((4-Pyridin-2-yl)-benzyl)-cyclopent[4,5]imidazo[1,2-a]pyrazolo[4,3-e]pyrimidine | 3.0 mg | CN1C=2N(C=3C(C1)=C(N(N3)CC3=CC=C(C=C3)C3=NC=CC=C3)NC3=CC=CC=C3)[C@@H]3[C@H](N2)CCC3 | C29H29N7
